Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 haven't had my meds and I'm suicidal..I feel
hopeless and nothing...I thought about killing myself by
overdosing."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ widowed,
homeless ___ female with a history of alcohol
abuse/dependence, substance induced mood do with multiple
psychiatric admissions and detoxes.She was "found passed out 
near
the T station and BIBA." Pt yelling and combative upon arrival
and requesting the BEST team. Actively endorsing SI and yells,
"Just let me die". FSGS 87 and BAL 339. 
When she arrived in the ED she was intoxicated, agitated and
aggressive towards staff and was screaming " I want to kill
myself I want to see the Best Team." The patient received a
chemical restraint of Haldol 5mg and calmed and became more
cooperative.  
The patient was re-evaluated when she was clinically sober and
reports that she stopped her medications and does not remember
when or why. She was last hospitalized this past ___ @ 
___
from this ED and was discharged to the ___ in
___ but reports that when she arrived there  it was late
and there was no available bed and she returned to ___.
She reports that she is not sleeping , eating and is quite
hopeless,is hearing voices telling her to "just do it", is
depressed and suicidal and is requesting admission to a dual
diagnosis unit.
She reports that she has been more depressed since her mother
died in ___ reports that she last drank yesterday Brandy
and Vodka and last smoked crack last week. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: per Drs. ___ notes
dated ___, confirmed and updated with patient
- no current psychiatrist was last treated over a year ago
  by ___ @ ___
- Prior diagnoses: PTSD, depression, anxiety
- Hospitalizations: last @ ___, ___ prior
admissions; ___ in ___ for alcohol intoxication
with a BAL of 400; ___ in ___ also
inpatient at ___
- Medication and ECT trials: Zyprexa, Prozac, Ativan
- Suicide attempts: several via overdose
- Self-injurious behavior: denies
- Harm to others: denies
- Access to weapons: denies
 
PAST MEDICAL HISTORY: per Dr. ___ note dated ___,
confirmed and updated with patient
* Primary care physician: ___
- ___
- Asthma
- Chronic pain in extremities
- H/O abdominal trauma
- Denies history of head trauma or seizures
 

 
Social History:
___
Family History:
 Suicide completion by older brother, alcoholic who drove car
into a pond in ___ ___ years ago
- Negative for mood or personality disorders.
- Negative for substance use or dependence
 
Physical Exam:
EXAM:

VS: T 97.7  P ___  BP 110/58  RR 18  SpO2 98% (RA)
 
Neurological:  
 station and gait:steady and within normal limits 
 cranial nerves: not tested
 abnormal movements: no tremor or abnormal posturing
 frontal release: not assessed
 
Cognition: 
 Wakefulness/alertness: drowsy but alert
 Attention: correctly lists MOYF and MOYB
 Orientation: ___ ___ did not know the exact date
or the day of the week" US.Pres."Obama"
 Executive function (go/no go, Luria, trails, FAS): not assessed
 Memory: ___ registry, ___ recall after 5 minutes
 Fund of knowledge: able to name ___ play by ___ and knew
it was ___ Day
 Calculations: $2.24 = 8 quarters then self corrected to 9
 Abstraction: apple/orange "fruit"
 Visuospatial: not assessed
 Speech: fluent ___, normal rate, tone, volume, and prosody
 Language: no paraphasic errors, appropriate to conversation
 
Mental Status:
 ___ yo ___ female dressed in hospital gown,
with poor grooming and hygiene, eyes closed for most of the
interview, edentulous 
 Behavior: calm, cooperative, engaged,and pleasant
 Mood: "depressed"
 Affect: dysphoric
 Thought Process: linear, coherent, goal-oriented, no loose
associations, reports that she has racing thoughts
 Thought Content: active SI with thoughts to overdose on her 
medications denies HI,reports that she is experiencing AH,
voices, telling her
 
 Impulse Control: impaired
 Judgment: poor
 Insight: impaired
 

 
Pertinent Results:
___ 11:30AM URINE  HOURS-RANDOM
___ 11:30AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 11:30AM URINE  RBC-2 WBC-11* BACTERIA-NONE YEAST-NONE 
EPI-17 TRANS EPI-1
___ 11:30AM URINE  MUCOUS-MANY
___ 06:10AM   NEUTS-23.1* LYMPHS-70.1* MONOS-3.7 EOS-1.4 
BASOS-1.7
___ 06:10AM   HYPOCHROM-1+ ANISOCYT-2+ POIKILOCY-2+ 
MACROCYT-2+ MICROCYT-OCCASIONAL POLYCHROM-NORMAL 
OVALOCYT-OCCASIONAL TARGET-2+ ENVELOP-1+
___ 06:10AM   PLT SMR-LOW PLT COUNT-138*
 
Brief Hospital Course:
1.Legal: ___
2.Medical: 
 # Etoh withdrawal: 
Patient was started on a CIWA protocol, and was scoring ___ 
for anxiety, nausea, headaches, and tremors. She required 
between 60-90mg of valium on the first three two days of 
hospitalization. She had some evidence of disorientation and 
agitation requiring redirection during admission, but no 
chemical or physical restraints. By HD 3, she was able to be 
successfully tapered off of CIWA protocol. \

# electrolyte abnormalities: She had significant hypokalemia and 
hypomagnesemia upon admission requiring 2gm of IV mag, 1200mg of 
po magnesium as well as 80mg of po K. She had significant nausea 
and vomiting that had been present for approximately one month 
prior to admission with worsening during periods of excessive 
drinking. After completion of detox her symptoms resolved. 

 

3.Psychiatric

Extensive time was spent discussing the patient’s diagnosis and 
psychopharmacology issues.

Outpatient Psychiatric Medications were discontinued due to 
noncompliance. 

Celexa 20mg was started to treat depression and anxiety. 
Seroquel 50mg  was started to treat insomnia and anxiety with 
uptitration to 100mg at bedtime. Hydroxyzine was used on an prn 
basis to address severe anxiety. B/R/AE/SE including but not 
limited to gastrointestinal distress, weight gain were 
discussed. These medications were well-tolerated.  

Collateral Information: (e.g. spoke with 
brother/mother/sister/spouse)

___ Abuse: No acute or chronic issues

-Medical and Psychiatric complications of substance abuse and 
addiction were discussed at length. The patient was started on 
naltexone 50mg qhs to address alcohol dependence and cravings. 
-Outpatient f/u for substance abuse was scheduled as below
-Pt was counseled to participate in AA/NA on a daily basis upon 
discharge
-Pt was encouraged to call AA/NA and treaters if they relapse on 
substances
-Pt was counseled to stop smoking and abuse nicotine products

5.Social/Milieu:

Pt  was encouraged to participate in unit’s 
groups/milieu/therapy opportunities.  
Usage of coping skills and mindfulness/relaxation methods were 
encouraged.
Therapy addressed family/social/work/housing issues.  

6.Risk Assessment: (a sample paragraph listed below)

Will note that while patient represents a chronic risk of 
impulsive and potentially dangerous behaviors (e.g. self-injury 
or assault) given multiple risk factors (including dx with a 
major mental illness, substance abuse, prior hx of these 
behaviors) that patient is currently in good behavioral control, 
sober, and future oriented (w/ plan to engage in outpatient 
substance abuse treatment, be sober for her mother), and 
connected with outpt treatment (sp. medication compliant and 
connected w outpt treaters) and therefore not at any significant 
elevated acute risk at this time to warrant inpatient 
hospitalization.

7.Disposition: 

___ program

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Paroxetine 30 mg PO DAILY 
2. CloniDINE 0.1 mg PO TID 
3. TraZODone 50 mg PO HS 
4. OLANZapine 20 mg PO HS 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. Atenolol 25 mg PO BID 
3. Citalopram 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. HydrOXYzine 25 mg PO Q6H:PRN anxiety/nausea 
6. naltrexone 50 mg oral qhs 
7. QUEtiapine Fumarate 100 mg PO HS 
8. Omeprazole 20 mg PO BID 
9. Thiamine 100 mg PO DAILY 
10. QUEtiapine Fumarate 25 mg PO BID:PRN anxiety 
11. CloniDINE 0.1 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol dependence
PTSD
Depression NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
During your admission at ___, you were diagnosed with alcohol 
dependence, depression and PTSD and treated included medication 
with naltrexone, celexa and seroquel.
Please follow up with all outpatient appointments as listed.
Please continue all medications as directed.
Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.
Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you and we wish you the 
best of health.
If you need to talk to a ___ Staff Member regarding issues of 
your hospitalization, please call ___

 
Followup Instructions:
___